US04772600
5-Chloro-2-(4-methylphenyl)-N-methyl-3H-imidazo[4,5-b]pyridine-3-acetamide
A slurry of 5-chloro-2-(4-methylphenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (2.8 g, 0.0093 mole) in tetrahydrofuran (11.3 ml) and dimethylformamide (0.68 g, 0.0093 mole) was cooled in an ice bath under nitrogen. Thionyl chloride (1.22 g, 0.0102 mole) was added dropwise to the stirred suspension. After stirring at room temperature for twenty minutes, the solution was cooled again in an ice bath and a solution of methylamine in tetrahydrofuran (21.5 ml of a 2.59M solution, 0.056 mole) was added dropwise. The suspension was stirred at room temperature under nitrogen for one hour and then the solvents were removed under reduced pressure. The residue was triturated in water (100 ml) and the resulting solid was collected by filtration and rinsed three times with water. The solid was dissolved in hot isopropyl alcohol, filtered while hot, and brought to the cloud point with isopropyl ether. Upon cooling, a solid precipitated which was collected by filtration, rinsed with isopropyl ether, and dried under high vacuum at 70° C. to give 1.86 g (64% yield) of title compound, mp>250° C.

reactant | 5-chloro-2-(4-methylphenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.0093 mole, 2.8 g | ClC1=CC=C2C(=N1)N(C(=N2)C2=CC=C(C=C2)C)CC(=O)O | C15H12ClN3O2
reactant | dimethylformamide | 0.0093 mole, 0.68 g | CN(C=O)C | C3H7NO
reactant | Thionyl chloride | 0.0102 mole, 1.22 g | S(=O)(Cl)Cl | Cl2OS
reactant | methylamine | CN | CH5N
solvent | tetrahydrofuran | 11.3 ml | O1CCCC1 | C4H8O
product | 5-Chloro-2-(4-methylphenyl)-N-methyl-3H-imidazo[4,5-b]pyridine-3-acetamide | 1.86 g, 64% yield | ClC1=CC=C2C(=N1)N(C(=N2)C2=CC=C(C=C2)C)CC(=O)NC | C16H15ClN4O
